Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Headache, nausea, vomiting, speech difficulty
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ is a ___ man
with history of asthma and ?ADHD who was transferred as code
stroke from OSH. 

History per wife at bedside. She reports that the patient was in
his usual state of health the night prior. She awoke at 5AM when
she felt patient get out of bed to walk the dog. At ___ she
found him clutching his head stating he had a headache and had
been vomiting. He attempted at this time to type an email to 
work
and had difficulty recalling who he needed to send the email to.
His wife reports that the contents of the email were gibberish.
Patient took 3 ibuprofen for the headache, and searched the home
for his Ritalin. His wife denies other ingestions. 

At the OSH, NIHSS of 10 although with no reported specific
deficits, given Zofran and Dilaudid prior to transfer to ___. 

At ___ ED, patient is noticeably anxious and has difficulty
appropriately answering prompts although language is fluent. He
demonstrates frustration in his inability to respond and repeats
"I'm so sorry" often. NIHSS of 4 for inability to answer month,
age, and language. 

He currently complains of a headache on the left side of his
head. It was there since last night and has been gradually
getting worse. Does not seem uncomfortable in the light but has
some pain when turning his head side to side. 

ROS: 
(+)Endorses headache, neck pain, nausea/vomiting, difficulty
producing appropriate language in response to prompting although
improving. 
(-)Denies fevers, photophobia, focal muscle weakness, numbness,
loss of sensation, paresthesia. 
 
Past Medical History:
Exercise induced asthma
?ADHD 

 
Social History:
___
Family History:
Mother: CVA at age ___ with multiple strokes since then, lupus 
anticoagulant positive, on Coumadin and ASA, history of 
rheumatic fever, history of migraines 
Brother: Death in infancy ___ SIDS 

 
Physical Exam:
ADMISSION EXAM
==============
VS: HR: 83 BP: 104/62 RR:26 SpO2: 100% NC Pain: ___
General: Young adult male, anxious and intermittently emotional,
shivering. 
HEENT: NCAT, pain with full lateral rotation of the neck.   
___: Warm, well-perfused
Pulmonary: Tattoo over L pectoralis. No laborious breathing on 
NC

Abdomen: Soft, ND 
Extremities: Warm, no edema, clubbing, or cyanosis. 

Neurologic Examination:  
MS: Awake, alert, unable to relate history without difficulty.
Initially unable to report full name or month, improved over
course of evaluation. Language is fluent although unable to
respond promptly, paraphrases questions asked such as "the month
is absolutely definitely is.." Difficulty following midline and
appendicular commands without mimicking. Able to read "you know
how" but unable to read rest of stroke card. Can only identify
glove on stroke card. 

CN: PERRL, brisk. EOMI, no nystagmus. V1-V3 without deficits to
light touch bilaterally. No facial movement asymmetry. Hearing
intact to finger rub bilaterally. Palate elevation symmetric.
Tongue protrusion midline. 

Motor - Normal bulk and tone. No drift. Diffuse low amplitude,
high frequency tremulousness. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    
 R   5     5     5     5     5    5     5     5     5    

Sensory - No deficits to light touch, no extinction to DSS. 

DTRs:  
  [Bic]  [___] [Quad] 
L  2+      2+      2+       
R  2+      2+      2+         

Plantar response flexor bilaterally.  

Coordination - No dysmetria with finger to nose testing
bilaterally, although requires repeated prompting and mimicking
to follow commands. 

Gait - Deferred 

DISCHARGE EXAM
==============
Vitals: T 97.6-98.1  BP 107-76 HR 50-70  RR ___  O%96 RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted
Pulmonary: comfortably breathing on room air
Extremities: No C/C/E bilaterally
Skin: No rashes or lesions noted. Tatoo on left chest. 

Neurologic:
-Mental Status: awake, alert. Multiple errors on serial 7s. Able 
to perform serial 3s from 20 correctly. Language is fluent with 
comprehension. Normal prosody. There are no paraphasic errors. 
Speech is not dysarthric. Able to follow both midline and 
appendicular commands. Had good knowledge of current events. 
There is no evidence of apraxia or neglect.

-Cranial Nerves: PEERL 3->2, brisk. No facial asymmetry. Hearing 
grossly intact to speech. No facial droop

-Motor: Normal bulk, tone throughout. No orbiting. No 
adventitious movements, such as tremor, noted. No asterixis 
noted.
 
-Other: negative Kernig and Brudzinski

 
Pertinent Results:
====
LABS
====
___ 08:54AM BLOOD WBC-18.3* RBC-4.78 Hgb-13.5* Hct-39.1* 
MCV-82 MCH-28.2 MCHC-34.5 RDW-11.7 RDWSD-34.9* Plt ___
___ 10:37AM BLOOD WBC-17.7* RBC-4.67 Hgb-13.1* Hct-39.2* 
MCV-84 MCH-28.1 MCHC-33.4 RDW-11.9 RDWSD-35.8 Plt ___
___ 05:25AM BLOOD WBC-10.1* RBC-4.21* Hgb-12.2* Hct-35.9* 
MCV-85 MCH-29.0 MCHC-34.0 RDW-12.4 RDWSD-37.9 Plt ___
___ 08:54AM BLOOD Neuts-85.5* Lymphs-9.4* Monos-4.4* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-15.65* AbsLymp-1.72 
AbsMono-0.81* AbsEos-0.02* AbsBaso-0.04
___ 10:37AM BLOOD Neuts-89.9* Lymphs-6.6* Monos-2.8* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-15.93* AbsLymp-1.17* 
AbsMono-0.50 AbsEos-0.00* AbsBaso-0.03
___ 05:25AM BLOOD Neuts-66.4 ___ Monos-5.9 Eos-0.4* 
Baso-0.3 Im ___ AbsNeut-6.69*# AbsLymp-2.68 AbsMono-0.59 
AbsEos-0.04 AbsBaso-0.03
___ 08:54AM BLOOD ___ PTT-30.2 ___
___ 10:37AM BLOOD ___ PTT-29.0 ___
___ 10:37AM BLOOD Glucose-132* UreaN-11 Creat-0.8 Na-137 
K-4.0 Cl-103 HCO3-21* AnGap-17
___ 05:25AM BLOOD Glucose-102* UreaN-9 Creat-0.8 Na-140 
K-3.7 Cl-108 HCO3-22 AnGap-14
___ 10:37AM BLOOD ALT-25 AST-19 AlkPhos-60 TotBili-0.6
___ 05:25AM BLOOD ALT-21 AST-18 AlkPhos-49 TotBili-0.6
___ 10:37AM BLOOD Lipase-20
___ 10:37AM BLOOD cTropnT-<0.01
___ 10:37AM BLOOD Albumin-4.3 Calcium-8.9 Mg-1.5*
___ 05:25AM BLOOD Calcium-8.4 Phos-2.6* Mg-1.8
___ 10:37AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:00AM CEREBROSPINAL FLUID (CSF) TNC-108* RBC-1 
Polys-0 ___ Monos-5 Eos-1
___ 11:00AM CEREBROSPINAL FLUID (CSF) TNC-109* RBC-1 
Polys-0 ___ ___ 11:00AM CEREBROSPINAL FLUID (CSF) TotProt-86* 
Glucose-66
___ 11:00AM CEREBROSPINAL FLUID (CSF) HERPES SIMPLEX VIRUS 
PCR-NEGATIVE

=======
IMAGING
=======
- ___ CTA head and neck
1. No acute intracranial abnormality on noncontrast head CT.  
Specifically no large territory infarct or intracranial 
hemorrhage. 
2. Relative paucity of distal branches of the superior division 
of the left MCA, with no abrupt vessel cut off visualized, of 
uncertain clinical significance or etiology.  MRI is recommended 
for further evaluation. 
3. The cervical lymph nodes are prominent with mildly enlarged 
level IIa lymph nodes measuring up to 1.5 cm in long axis.  In 
addition, there is prominence of bilateral palatine tonsils, 
asymmetrical larger on the left.  These findings are also 
nonspecific, potentially reactive in nature.  Clinical 
correlation is recommended. 

- ___ MRI Head w/ and w/o contrast
1. No evidence of acute infarct, hemorrhage or intracranial 
mass. 
2. No imaging findings such as FLAIR signal abnormality or 
abnormal 
enhancement to suggest meningitis.  Please note, negative 
imaging findings does not exclude meningitis. 
 
Brief Hospital Course:
Mr. ___ presented to ___ with symptoms of aphasia. CTA 
imaging showed a paucity of vasculature of the left hemisphere, 
concerning for stroke. At ___ he obtained an LP which showed 
lymphocytic pleiocytosis and his symptoms rapidly improved to 
baseline. CSF gram stain was negative. His exam was not very 
concerning for a viral meningitis (he was afebrile, appeared 
well, had no signs of meningismus), but he was started on 
acyclovir until CSF HSV resulted. Contrast MRI was negative for 
infarct or any abnormalities. His syndrome was most consistent 
with HaNDL (headache with neurological deficits and lymphocytic 
pleiocytosis). It is benign and it most often seen in men of his 
age group, sometimes following a viral illness (he had recently 
felt unwell and his family had recently been sick), and can be 
associated with decreased single hemispheric perfusion (as was 
observed on CTA).  He was discharged when these viral studies 
were negative and with no changes to his home medications (which 
were none to begin with). He will follow-up with his PCP next 
week for referral to a neurologist (as required by his Atrius 
insurance). 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 200-400 mg PO PRN Pain - Mild 

 
Discharge Medications:
1.  Ibuprofen 200-400 mg PO PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
HaNDL: transient headache and neurological deficits with 
cerebrospinal fluid lymphocytosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
You were admitted to the hospital for symptoms of confusion and 
language problems (aphasia) initially concerning for stroke. 
Your symptoms rapidly improved, and all brain imaging 
(CT/CTA/MRI) was negative for stroke. A lumbar puncture was 
performed and showed elevated white blood cells, specifically 
lymphocytes, that is usually concerning for an infection like 
meningitis or encephalitis. You had no bacteria in your 
cerebrospinal fluid (CSF). You were treated with an antiviral 
medication, acyclovir, while viral tests for the most likely 
culprit, herpes simplex (HSV), were run. We continued you on 
this until the test results came back negative. Your diagnosis 
is most likely called "HaNDL" which is a rare syndrome of 
transient headache and neurological deficits with cerebrospinal 
fluid lymphocytosis. Other imaging findings were also consistent 
with HaNDL syndrome, including apparently narrowed blood vessels 
in one entire hemisphere of your brain (this is transient). It 
is unlikely to recur and there are no specific medications that 
you will need to take. 

You were provided with an information packet on HaNDL from 
UpToDate. 

Best, 
Your ___ Neurology Team

 
Followup Instructions:
___